US05166198
h) 9-[1-(t-Butyldimethylsilyloxymethyl)-3-(diethoxy-phosphoryl)propoxy]adenine
A solution of 9-[1-(t-butyldimethylsilyloxymethyl)-3-(diethoxyphosphoryl)propoxy]-6-chloropurine (0.30 g) in ethanol (10 ml) saturated with ammonia gas was heated in a sealed vessel at 100° C. for 2 hours. The reaction mixture was cooled to ambient temperature overnight, the ethanol evaporated under reduced pressure and the residue chromatographed on silica gel using dichloro-methane-methanol (98:2) as eluant. Starting material (0.06 g) was recovered and the eluant was changed to dichloromethane-methanol (95:5) to afford the title compound (0.10 g, 43%) as an oil. 1H NMR: δH ((CD3)2)2SO) 0.00, 0.61 (6H, 2 x s, SiMe2). 0.81 (9H, s, SiBut), 1.20 (6H, t, J=7Hz, (OCH2CH3)2), 1.7-2.2 (4H, m, --CH2CH2P), 3.82 (2H, d, J=4.1 H, CH2OSi), 4.0 (4H, m, (OCH2CH3)2), 4.44 (1H, m, OCHCH2), 7.35 (2H, s, D2O exchangeable, N2), 8.3 (1H, s), 8.27 (1H, s). Found: C, 47.82; H, 7.61; N, 14.41%. C19H36N5O5SiP requires: C, 48.16; H, 7.66; N, 14.79%. m/z: C19H36N5O5SiP requires: 473.2221. Observed: 473.2219.

reactant | 9-[1-(t-butyldimethylsilyloxymethyl)-3-(diethoxyphosphoryl)propoxy]-6-chloropurine | 0.30 g | [Si](C)(C)(C(C)(C)C)OCC(CCP(=O)(OCC)OCC)ON1C2=NC=NC(=C2N=C1)Cl | C19H34ClN4O5PSi
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 9-[1-(t-Butyldimethylsilyloxymethyl)-3-(diethoxy-phosphoryl)propoxy]adenine | 0.10 g, 43% | [Si](C)(C)(C(C)(C)C)OCC(CCP(=O)(OCC)OCC)ON1C2=NC=NC(=C2N=C1)N | C19H36N5O5PSi
